Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Malignant Hypertension
 
Major Surgical or Invasive Procedure:
Fat Pad Biopsy ___
Renal Biopsy ___
 
History of Present Illness:
___ yoM PMH Chronic kidney disease, poorly controlled 
hypertension, diastolic CHF, renal insufficiency, sleep apnea, 
presented to ED from ophthalmologist with hypertensive 
emergency. 

Patient has long history of poorly controlled hypertension and 
has  had bp's in 200's/100's at recent nephrology and cardiology 
outpatient visits. Looking back in ___ records, bp in 170's/90's 
going back to ___. Creatinine at that time 1.3-1.5. He has been 
on antihypertensives, but there is question of compliance, with 
patient stating that he did not take medications when he "felt 
good". Patient presented to PCP ___ ___ for routine follow up 
and was noted to be hypertensive to 210/120 with creatinine 3.9. 
He was placed on BB and followed up with nephrology who 
determined his kidney failure was likely subacute to chronic in 
nature, given work up revealing elevated PTH and low vitamin D. 

In late ___ patient admitted with DOE, orthopnea, PND and 
chest pressure. He was found to have BP 192/130 and TTE revealed 
L and R atrial dilation, severe symmetric LVH, LVEF 70%, with 
Doppler revealing grade III/IV L ventricular diastolic 
dysfunction.
He was diuresed w/IV Lasix and blood pressure was controlled 
with isosorbide dinitrate and hydralazine. Creatinine at 
discharge was ~4.1, but subsequently noted to be 7.5 on ___. 
Patient scheduled for kidney biopsy on ___, but was cancelled 
in setting of hypertension.

Also of note, renal work up included SPEP revealing 
paraproteinemia w/lambda predominance (K/L ration 0.06) and 
paraproteinuria. There is concern for multiple myeloma vs 
amyloid, and recent bone marrow aspirate revealed 4% lambda 
restricted plasma cell population by flow. Core biopsy pending.

Over the past 3 weeks patient has noted blurry/darker vision 
with associated floaters, so he went to ophthalmology for 
evaluation on the morning of admission. At appointment exam 
revealed: 
 
"C/D: 
OD: swollen, flame shaped hemes, cws, -svp 
OS: swollen, flame shaped hemes, cws, -SVP
MACULA: macular exudation ___
VESSELS: dilated and tortuous vessels ___
PERIPHERY: flat x ___ degrees, ___, no holes ___
BP: RAS 182/102, LAS 180/106 Advised to present to ED for 
Malignant hypertensive retinopathy. "

In the ED, initial vitals were: T 98.0, P 77, BP 187/112, RR 16, 
O2 100% RA. Blood pressure in ED peaked at 208/123.
Labs were significant for BUN 54/Creatinine 7.7 (baseline ~4, 
but 7.5 on ___, WBC 10, Hb 10 (baseline 12), Phos 4.6, Alt 
64/AST 38. Remainder of electrolytes wnl. UA revealed trace 
blood, protein and 1 RBC. Patient complained of persistent 
blurry vision. No eye pain or pain with eye movement. He 
endorsed compliance with BP medications apart from amlodipine 
which he stopped taking a few days prior due to fatigue that he 
attributes to this medication. Unable to recall names of 
remaining medications or clearly state y/n when read from list. 
Took all meds this morning apart from amlodipine per above. On 
remainder of ROS he reported intermittent HA, slight DOE 
w/increased pedal edema, but no PND, orthopnea, chest pain, 
palpitations, weight gain or abdominal pain.

Patient received 10mg IV Metop, 10mg IV Labetalol x 2 with mild 
improvement in pressures. Transferred to the floor for further 
management. 

On the floor, patient feeling well. Still complaining of blurry 
vision, unchanged from prior.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia
2. CARDIAC HISTORY:  None
- CABG:  None
- PERCUTANEOUS CORONARY INTERVENTIONS:  None
- PACING/ICD:  None
3. OTHER PAST MEDICAL HISTORY:  
OBSTRUCTIVE SLEEP APNEA 
OBESITY 
RENAL INSUFFICIENCY 
 
Social History:
___
Family History:
His mother is alive, age ___ with hypertension
and back pain.  His father died at age ___ of cancer.  His 
brother
is alive at age ___ with diabetes and hypertension.  His sister 
is
alive at age ___ with hypertension.
 
Physical Exam:
Admission Exam
================
Vital Signs: T 98.0 BP 180/90 P 80 RR 20 O2 99% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP to angle of mandible  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: obese, Soft, non-tender, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 4+ pitting edema in ___ to thighs b/l.
Neuro: No focal deficits  
 
 
Pertinent Results:
Admission Labs
===============
___ 01:11PM BLOOD WBC-10.0 RBC-3.70* Hgb-10.0* Hct-31.9* 
MCV-86 MCH-27.0 MCHC-31.3* RDW-14.7 RDWSD-46.2 Plt ___
___ 01:11PM BLOOD Plt ___
___ 01:11PM BLOOD Glucose-87 UreaN-54* Creat-7.7* Na-138 
K-4.1 Cl-101 HCO3-25 AnGap-16
___ 01:11PM BLOOD ALT-64* AST-38 AlkPhos-81 TotBili-0.2
___ 01:11PM BLOOD ___
___ 01:11PM BLOOD cTropnT-0.09*
___ 01:11PM BLOOD Calcium-8.5 Phos-4.6*# Mg-2.1
___ 08:01AM BLOOD LD(LDH)-255* TotBili-0.3 DirBili-0.1 
IndBili-0.2

Additional Pertinent Results
============================
___ 08:01AM BLOOD Hapto-119
___ 05:58AM BLOOD ___ * Titer-1:80

___ 08:50AM BLOOD UricAcd-11.0*
___ 01:11PM BLOOD ___
___ 01:11PM BLOOD cTropnT-0.09*
___ 05:25AM BLOOD IgG-1046 IgA-182 IgM-38*
___ 09:05PM BLOOD Ret Aut-3.0* Abs Ret-0.12*

Imaging
========
___ Skeletal Survey 
FINDINGS: 
There are no lytic or sclerotic lesions present.
Degenerative changes are present in the spine and both hips.
 
There is stable mild compression of the L1 vertebral body which 
is unchanged as compared to a CT scan of ___.  
There is grade 1 mild anterior spondylolisthesis at L5-S1.
 
A total knee replacement is present on the right.  Degenerative 
changes are present in the left knee.
 
IMPRESSION: 
1.  There are no lytic or sclerotic lesions present.
2.  Degenerative changes are present as noted.

___ CXR
IMPRESSION:  
Cardiomegaly is severe, unchanged.  Mild vascular redistribution 
to the upper zones is more pronounced than on the prior study.  
There is no appreciable pleural effusion.  There is no 
pneumothorax. 
  
Of note is that the cardiac silhouette has substantially 
increased as compared to ___.  This might represent either 
interval dilatation of the cardiac jumper's or interval 
accumulation of pericardial effusion.  Correlation with 
echocardiography is recommended. 

___ EKG: Rate 67, QTc 448
Sinus rhythm. Occasional atrial ectopy. Left atrial abnormality. 
Borderline 
P-R interval prolongation. Left ventricular hypertrophy. 
Inferolateral  
ST-T wave abnormalities, most likely related to left ventricular 
hypertrophy. 
Compared to the previous tracing of ___ there is no 
significant diagnostic 
change. 

 
Brief Hospital Course:
___ yoM PMH chronic kidney disease, poorly controlled 
hypertension, diastolic CHF, renal insufficiency, sleep apnea, 
presented to ED from ophthalmologist with hypertensive 
emergency. 

#Multiple myeloma: Patient's bone marrow core biopsy, done as 
outpatient, returned with ___ lambda restricted plasma cells. 
monoclonal free lambda was detected on SPEP/IFE with FLC ratio 
0.06. Patient was transferred to oncology service. Fat pad 
biopsy was completed on ___ that was normal without ___ red 
staining. Renal biopsy ___ showed hypertensive 
nephropathy/thrombotic microangiopathy consistent with malignant 
hypertension with no evidence of light chains or amyloid. 
___ did not reveal any FDG-avid skeletal disease. The 
patient did have anemia which ___ be multifactorial given CKD. 
He was started on C1D1 dexamethasone/velcade on ___. Uric acid 
after first dose was found to be 11, patient was given 
rasburicase. He will continue outpatient treatment and follow up 
with his oncologist Dr. ___.

# Hypertensive emergency: Patient with longstanding essential 
hypertension, on a number of antihypertensives at home (although 
unclear compliance) who presented from ophthalmology appointment 
with BP in 180-190s/110s and evidence of malignant hypertensive 
retinopathy and hypertensive nephropathy. Anti-hypertensives 
were uptitrated dramatically during this admission and blood 
pressure improved. Patient discharged with close PCP and ___ 
follow up to ensure blood pressures remain well controlled. 

# Acute on chronic renal failure: Patient's creatinine 7.7 on 
admission, up from recent baseline of 4.0. Renal consulted, who 
recommended blood pressure control as above and renal biopsy, 
given concern for multiple myeloma/amyloidosis. Renal biopsy was 
consistent with hypertensive nephropathy/TMA. Patient's 
electrolytes remained within normal limits with no urgent need 
for dialysis this admission. He had vein mapping and transplant 
surgery recommended preservation of left arm without IV or blood 
draws. He will follow up with renal as outpatient.

# Acute on chronic diastolic heart failure: TTE during admission 
in ___ revealed grade III/IV diastolic dysfunction. BNP was 
12531 and patient appeared significantly volume overloaded on 
admission. He was diuresed to euvolemia with IV Lasix and then 
transitioned to PO torsemide 80mg daily. Discharge weight: 240 
lb.  

# Hyperglycemia: Patient with very elevated blood sguars to 400 
in setting of dexamethasone use. He is not diabetic. This was 
treated by sliding scale insulin here. He also experienced low 
blood sugars on ISS. He was seen by ___ consult service in 
house who recommended continuing to monitor blood sugars while 
he receives dexamethasone as an outpatient and holding off on 
starting ISS as an outpatient. However, if FSBG, remain elevated 
above 250 he will need to start NPH 4U with his dose of 
dexamethasone.

# Malignant hypertensive retinopathy: Patient was seen again in 
house by ophthalmology. He will follow up as outpatient in ___ 
weeks.
 
# Anemia: Patient's Hb 10 on admission, down from baseline 12. 
Likely secondary to chronic kidney disease and multiple myeloma. 
No evidence of active bleeding and patient denied black or 
bloody stool. Hemoglobin remained stable throughout admission.
 
# HLD: Continued atorvastatin, will continue aspirin.

# Bone mineral disease: Patient with elevated PTH and low 
vitamin D consistent with bone mineral disease secondary to CKD. 
He was continued on home Vitamin D repletion. 

# CODE: Full (confirmed)  
# CONTACT: Wife ___ ___  

TRANSITIONAL ISSUES:
[ ] ___ to check BGs 4 hours after taking dexamethasone 
and at bedtime. Please write down. If BGs persistently above 
250, consider intiating 4U NPH to be taken at same time as 
dexamethasone.
[ ] Blood pressure medications aggressively adjusted (please see 
med list). Follow BP and adjust accordingly.
[ ] Vein mapping done in house. Per transplant surgery preserve 
L arm; no blood draws or IVs to left arm.
[ ] Patient to follow up with ophthalmology for hypertensive 
retinopathy.
[ ] Strongly recommend referring patient to podiatry for 
management of toenails.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. HydrALAZINE 100 mg PO TID 
3. Labetalol 300 mg PO BID 
4. Torsemide 20 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Torsemide 80 mg PO DAILY 
RX *torsemide 20 mg 4 tablet(s) by mouth daily Disp #*120 Tablet 
Refills:*0
2. Acyclovir 400 mg PO Q24H 
RX *acyclovir 400 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Bortezomib 2.8 mg SC Days 1, 4, 8 and 11. ___, 
___ and ___
 (1.3 mg/m2 (Weight used: Actual Weight = 106.6 kg  BSA: 2.18 
m2)) 
4. Calcium Acetate 667 mg PO TID W/MEALS 
RX *calcium acetate 667 mg 1 tablet(s) by mouth tid qAC Disp 
#*90 Tablet Refills:*0
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0
6. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
8. HydrALAZINE 100 mg PO TID 
RX *hydralazine 100 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
9. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
10. NovoLIN N (insulin NPH human recomb) 4 units subcutaneous 
DAILY 
Take when you take your dexamethasone. DO NOT START UNTIL 
INSTRUCTED BY A PHYSICIAN. 
RX *insulin NPH human recomb [Novolin N] 100 unit/mL 4 U SC 
daily Disp #*1 Vial Refills:*0
11. Amlodipine 10 mg PO HS 
RX *amlodipine 10 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
12. Labetalol 800 mg PO TID 
RX *labetalol 200 mg 4 tablet(s) by mouth three times a day Disp 
#*360 Tablet Refills:*0
13. Dexamethasone 20 mg PO DAILY 
Take on: ___ and ___ 
RX *dexamethasone 4 mg 5 tablet(s) by mouth daily Disp #*15 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
Multiple Myeloma

Secondary
Malignant Hypertension 
Acute on Chronic Renal Failure
Malignant Hypertensive Retinopathy
Diastolic Congestive Heart Failure 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ with very high blood pressure causing 
problems in your eyes and kidneys. While you were here the 
results of your bone marrow biopsy came back and showed you have 
a disease called multiple myeloma, and you were started on 
treatment for this. You were seen by the kidney doctors, who 
will continue to follow you and monitor your blood pressure and 
kidney function. You were also seen by the diabetes doctors 
since ___ had high blood sugar after starting steroids.

For your multiple myeloma, we have made several appointments for 
you to continue your treatment with dexamethasone and velcade, 
as well as follow up regularly with Dr. ___. Please pay close 
attention to the dates for your appointments and the dates you 
are supposed to take dexamethasone.

For your blood sugar, you had some high sugars after taking 
steroids (dexamethasone). It is important that you try to avoid 
high-carb meals or sugary foods or beverages, especially on days 
when you take the dexamethasone, because very high sugar is 
dangerous to you. You should check your blood sugar 4 hours 
after taking dexamethasone and in the evening. If it continues 
to be high you ___ need to start using insulin. You will follow 
up with the ___ doctors.

___ your kidney failure, this was found to be due to your very 
high blood pressure. Please review your medication list closely 
as we have made several adjustments. Check your blood pressure 
at home at least ___ times per week. You will follow up with Dr. 
___ Dr. ___ week.

For your vision, you will follow up with the eye doctors in 
___ in several weeks to monitor your eye exam.

Thank you for allowing us to participate in your care. We wish 
you the very best.

 - Your ___ Team
 
Followup Instructions:
___